US05118781
2,5-Bis(4-hydroxyphenyl)-1,3,4-Oxadiazole
Into a 250 ml three neck round bottem flask equipped with a magnetic stirbar, nitrogen inlet, glass stopper and distillation head is placed 4-hydroxybenzoic hydrazide (60.9 g, 0.4 mol) and phenyl-4-hydroxybenzoate (85.7 g, 0.4 mol). The mixture is heated to approximately 210° C. by use of a Wood's metal bath. The solids melt and phenol begins to evolve and is removed via the distillation head. The melt begins to solidify after about 15-20 minutes. The temperature is then increased to 300° C. and held for approximately one hour while under nitrogen. After cooling, the tan solid is pulverized and stirred with methanol (150-200 ml). The undissolved solid is collected and dried at 150° C. in a forced air oven. The white solid (approximately 56 g) is recrystallized from N,N-dimethylacetamide (DMAc, 225 ml) and water (105 ml) and after drying at 200° C. under vacuum (45.7 g, 45% yield), it exhibited a melting point of 347° C. by differential thermal analysis (DTA). [Y. Iwakura, U. Keikichi, Y. Imai, and Y. Takase, Die Makromoleculare Chemie, 95, 261 (1966) melting point 338° C⟧ Elemental analysis for C14H10O3N2. Calculated: C, 66.13%; H, 3.96%; O, 18.88%; N, 11.02%. Found C, 66.17%; H, 4.05%; N, 11.12%.

reactant | 4-hydroxybenzoic hydrazide | 0.4 mol, 60.9 g | OC1=CC=C(C(=O)NN)C=C1 | C7H8N2O2
reactant | phenyl-4-hydroxybenzoate | 0.4 mol, 85.7 g | C1(=CC=CC=C1)OC(C1=CC=C(C=C1)O)=O | C13H10O3
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | 2,5-Bis(4-hydroxyphenyl)-1,3,4-Oxadiazole | 45% yield | OC1=CC=C(C=C1)C=1OC(=NN1)C1=CC=C(C=C1)O | C14H10N2O3
